US07960425B2
5-{1-[4-Hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid 2-picolylamide (free form)
1-[4-Hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone (50 mg, 0.18 mmol) in dimethyl sulfoxide (1.0 mL) was heated with 5-hydrazinocarbonylthiophene-2-carboxylic acid 2-picolylamide (58 mg, 0.21 mmol) prepared in Reference Synthetic Example 2 at 110° C. for 21 hours. The solvent was evaporated, and the residue was washed with water and chloroform to give 79 mg of the desired product (yield 83%).

reactant | 1-[4-Hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone | 0.18 mmol, 50 mg | OC=1C(=NN(C1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=O | C13H11F3N2O2
reactant | 5-hydrazinocarbonylthiophene-2-carboxylic acid 2-picolylamide | 0.21 mmol, 58 mg | N1=C(C=CC=C1)CNC(=O)C=1SC(=CC1)C(=O)NN | C12H12N4O2S
solvent | dimethyl sulfoxide | 1.0 mL | CS(=O)C | C2H6OS
product | 5-{1-[4-Hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid 2-picolylamide | 79 mg, yield 83% | N1=C(C=CC=C1)CNC(=O)C=1SC(=CC1)C(=O)NN=C(C)C1=NN(C(=C1O)C1=CC=C(C=C1)C(F)(F)F)C | C25H21F3N6O3S
